US07232812B2
3-Methyl-azetidin-3-ol hydrochloride (0,6 g, 4,84 mmoles) was suspended in tetrahydrofuran (50 ml) and Triethylamine (1,2 ml) was added. The mixture was stirred at room temperature (approximately 25° C.) for 30 minutes and 3,5-di-tert-butyl-4-hydroxy benzoic acid (1,26 g, 5,1 mmoles) was added in one portion, the mixture was cooled to 0° C. and subsequently a solution of dicyclohexylcarbodiimide (1 g, 4,84 mmoles) in tetrahydrofuran (27 ml) was added. The reaction mixture was then heated to reflux for 3,5 hours, cooled and the insoluble solid was filtered off. The filtrate was concentrated using a rotavapor, the remaining solid dissolved in ethyl acetate, washed with water, dried over magnesium sulfate, filtered and evaporated to dryness. The crude residue obtained is crystallized from diethyl ether to give 1,14 g (73% of theoretical yield) of (3,5-di-tert-butyl-4-hydroxy-phenyl)-(3-hydroxy-3-methyl-azetidin-1-yl)-methanone.

reactant | 3-Methyl-azetidin-3-ol hydrochloride | 4,84 mmoles, 0,6 g | Cl.CC1(CNC1)O
reactant | Triethylamine | 1,2 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-di-tert-butyl-4-hydroxy benzoic acid | 5,1 mmoles, 1,26 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | dicyclohexylcarbodiimide | 4,84 mmoles, 1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | (3,5-di-tert-butyl-4-hydroxy-phenyl)-(3-hydroxy-3-methyl-azetidin-1-yl)-methanone | 1,14 g, 73% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(=O)N1CC(C1)(C)O | C19H29NO3
